US06642389B2
a] 2-(4-Methoxy-benzoylamino)-pent-4-enoic acid ethyl ester
A solution of 11.7 g of (4-methoxy-benzoylamino)-acetic acid ethyl ester (49.6 mmol) in 250 ml of abs. THF was cooled down to −78° and treated with 2.1 eq. of lithium hexamethyldisilazide (104 ml 1M[hexane]). After stirring for 30 min., 1.1 eq. of allyl bromide (4.62 ml) was added neat via syringe and the reaction mixture kept for 15 min. at −78° and for 30 min. at 0°. Pouring onto crashed ice, twofold extraction with AcOEt, twice washing with water, drying over natrium sulfate and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=85/15) afforded 10.56 g of the title compound as off-white solid of mp. 76-78°, besides of 2.74 g of dialkylated product as yellowish oil.

reactant | (4-methoxy-benzoylamino)-acetic acid ethyl ester | 49.6 mmol, 11.7 g | C(C)OC(CNC(C1=CC=C(C=C1)OC)=O)=O | C12H15NO4
reactant | lithium hexamethyldisilazide | 1M, 104 ml, 2.1 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl bromide | 4.62 ml, 1.1 eq. | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Methoxy-benzoylamino)-pent-4-enoic acid ethyl ester | 10.56 g | C(C)OC(C(CC=C)NC(C1=CC=C(C=C1)OC)=O)=O | C15H19NO4
